US06897224B2
2-Methylamino-5-nitroquinoline
1.0 g (4.8 mmol) of 2-chloro-5-nitroquinoline and 20 ml of 2 M methanolic methylamine solution are heated in a pressure vessel for 8 hours to 120° C. The batch is concentrated by evaporation after the addition of toluene. The residue is purified by column chromatography on silica gel with hexane-ethyl acetate: 580 mg of product.

reactant | 2-chloro-5-nitroquinoline | 4.8 mmol, 1.0 g | ClC1=NC2=CC=CC(=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | methylamine | 2 M, 20 ml | CN | CH5N
product | 2-Methylamino-5-nitroquinoline | CNC1=NC2=CC=CC(=C2C=C1)[N+](=O)[O-] | C10H9N3O2
